US06090753
To a mixed solution of 8.0 g (97.2 mmol) of sodium acetate and about 50 ml of water was added under ice cooling 6.9 g (24.3 mmol) of 3,3-dibromo-1,1,1-trifluorobutanone, and the reaction was allowed to proceed at 80° C. for 30 minutes. Then, the reaction mixture was cooled to 0° C., to which 4.4 g (18.7 mmol) of 7-fluoro-6-hydrazino-4-propargyl-2H-1,4-benzoxazin-3-one was added, and the reaction mixture was stirred at room temperature for 2 hours. The precipitated crystals were collected by filtration, washed twice with 10 ml of water, and dried, which afforded 6.1 g (17.0 mmol) of 1,1,1-trifluoro-2,3-butandione 3-(7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazin-6-ylhydrazone).

reactant | sodium acetate | 97.2 mmol, 8.0 g | C(C)(=O)[O-].[Na+]
reactant | 3,3-dibromo-1,1,1-trifluorobutanone | BrC(C(C(F)(F)F)=O)(C)Br | C4H3Br2F3O
reactant | 7-fluoro-6-hydrazino-4-propargyl-2H-1,4-benzoxazin-3-one | 18.7 mmol, 4.4 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NN | C11H10FN3O2
solvent | water | about 50 ml | O | H2O
product | 1,1,1-trifluoro-2,3-butandione 3-(7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazin-6-ylhydrazone) | 17.0 mmol, 6.1 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NN=C(C(C(F)(F)F)=O)C | C15H11F4N3O3
